US06313312B1
3-Hexyl-6-(3-aminophenyl)-6-(2,2,2-trifluoroethyl)-3-azabicyclo[3.1.0]hexane-2,4-dione
3-Hexyl-6-(3-nitrophenyl)-6-(2,2,2-trifluoroethyl)-3-azabicyclo[3.1.0]hexane-2,4-dione (Preparation 103, 178 mg, 0.45 mmol) was dissolved in ethanol (15 ml). Iron powder (225 mg, 4.0 mmol) was added at room temperature followed by calcium chloride (50 mg, 0.45 mmol), dissolved in water (2 ml). The vigorously stirred mixture was heated under reflux for 2 h then cooled to room temperature and filtered through a pad of silica. The solvent was removed in vacuo and the filtrate was dissolved in dichloromethane and filtered through a Whatman anotop 10 plus™ cartridge. The organic mixture was concentrated in vacuo to give the product as a brown gum (170 mg, 100%).

reactant | 3-Hexyl-6-(3-nitrophenyl)-6-(2,2,2-trifluoroethyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 0.45 mmol, 178 mg | C(CCCCC)N1C(C2C(C2C1=O)(CC(F)(F)F)C1=CC(=CC=C1)[N+](=O)[O-])=O | C19H21F3N2O4
reactant | calcium chloride | 0.45 mmol, 50 mg | [Cl-].[Ca+2].[Cl-]
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
catalyst | Iron | 4.0 mmol, 225 mg | [Fe] | Fe
product | 3-Hexyl-6-(3-aminophenyl)-6-(2,2,2-trifluoroethyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 170 mg, 100% | C(CCCCC)N1C(C2C(C2C1=O)(CC(F)(F)F)C1=CC(=CC=C1)N)=O | C19H23F3N2O2
